US05132377
1-(α,α-dimethylbenzyl)pyridinium hexafluoroantimonate
4.644 g (0.03 mol) of α,α-dimethylbenzyl chloride and 2.373 g (0.03 mol) of pyridine were reacted in 40 ml of methanol at 40° C. for 3 days. After the reaction, the solvent was evaporated in vacuo and ether-water was added to the residue to extract unreacted reactants in the etherial layer. To the aqueous layer was added 7.7 g (0.03 mol) of sodium hexafluoroantimonate. The resulting crystals were suction filtered, washed and dried to give the title compound.

reactant | α,α-dimethylbenzyl chloride | 0.03 mol, 4.644 g | CC(C1=CC=CC=C1)(C)Cl | C9H11Cl
reactant | pyridine | 0.03 mol, 2.373 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hexafluoroantimonate | 0.03 mol, 7.7 g | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 1-(α,α-dimethylbenzyl)pyridinium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.CC(C1=CC=CC=C1)(C)[N+]1=CC=CC=C1 | InChI=1S/C14H16N.6FH.Sb/c1-14(2,13-9-5-3-6-10-13)15-11-7-4-8-12-15;;;;;;;/h3-12H,1-2H3;6*1H;/q+1;;;;;;;+5/p-6
